US08110585B2
trans-2-(2-methyl-2H-indazol-4-yl)cyclopropanecarbaldehyde oxime
Trans-2-(2-methyl-2H-indazol-4-yl)cyclopropanecarbaldehyde (330 mg, 1.65 mmol), 8 M aqueous sodium hydroxide solution (824 μL, 6.59 mmol) and hydroxylamine hydrochloride (378 mg, 5.44 mmol) were dissolved in ethanol/water (15 mL/3 mL), and the mixture was stirred at 60° C. for 3 hr. The reaction solution was concentrated, extracted with ethyl acetate, washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (349 mg, yield 98%).

reactant | Trans-2-(2-methyl-2H-indazol-4-yl)cyclopropanecarbaldehyde | 1.65 mmol, 330 mg | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)C=O | C12H12N2O
reactant | sodium hydroxide | 6.59 mmol, 8 M, 824 μL | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 5.44 mmol, 378 mg | Cl.NO
solvent | ethanol water | 15 mL | C(C)O.O
product | trans-2-(2-methyl-2H-indazol-4-yl)cyclopropanecarbaldehyde oxime | 349 mg, yield 98% | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)C=NO | C12H13N3O
